US06506901B2
Step C: (2S)-1-(9H-Carbazol-4-yloxy)-3-[(1-hexyl-piperidin-4-ylmethyl)-amino]-propan-2-ol
Prepared from 4-[(2S)-oxiranylmethoxy]-9H-carbazole (0.239 g, 1.0 mmol) and 4-aminomethyl-1-hexylpiperidine (0.396 g, 2.0 mmol) according to procedure used for Example 2 to give 0.225 g of the title compound as a white solid.

reactant | 4-[(2S)-oxiranylmethoxy]-9H-carbazole | 1.0 mmol, 0.239 g | O1[C@@H](C1)COC1=CC=CC=2NC3=CC=CC=C3C12 | C15H13NO2
reactant | 4-aminomethyl-1-hexylpiperidine | 2.0 mmol, 0.396 g | NCC1CCN(CC1)CCCCCC | C12H26N2
product | (2S)-1-(9H-Carbazol-4-yloxy)-3-[(1-hexyl-piperidin-4-ylmethyl)-amino]-propan-2-ol | 0.225 g | C1=CC=C(C=2C3=CC=CC=C3NC12)OC[C@H](CNCC1CCN(CC1)CCCCCC)O | C27H39N3O2
